US06448397B1
N,N-Diethyl-N -{3-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]propyl}amine
To a mixture of 3-chloropropyl 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl ether (0.45 g, 1.2 mmol) in dry DMF (10 mL) is added diethylamine (1.2 mL, 12 mmol) and sodium iodide (0.18 g, 1.2 mmol). The mixture is heated at 50° C. overnight. The mixture is partitioned between water and CH2Cl2. The layers are separated and the organic layer washed with brine (50 mL) followed by water (100 mL). The organic layer is dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography with silica gel (60 mL) using CH3OH/CH2Cl2 (3/97) as eluent gave 0.216 g (43%) of the title compound.

reactant | 3-chloropropyl 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl ether | 1.2 mmol, 0.45 g | C1(=CC=CC=C1)C1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCCCCl | C23H20ClNO2
reactant | diethylamine | 12 mmol, 1.2 mL | C(C)NCC | C4H11N
reactant | sodium iodide | 1.2 mmol, 0.18 g | [I-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N,N-Diethyl-N -{3-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]propyl}amine | 0.216 g, 43% | C(C)N(CCCOC1=CC=CC=2N3C4=C(C=CC=C4C12)OCC3C3=CC=CC=C3)CC | C27H30N2O2
